US08614209B2
5-(2-Fluoro-pyridin-4-yl)-thiophene-3-carboxylic acid
A mixture of 5-bromo-thiophene-3-carboxylic acid (0.71 g, 4.4 mmol), 2-fluoropyridine-4-boronic acid (0.619 g, 4.4 mmol), caesium carbonate (2.9 g, 8.8 mmol), and palladium tetrakis(triphenylphosphine) (0.469 g, 0.44 mmol) in DME (40 mL), IMS 20 mL) and water (10 mL) was divided across three microwave vials and each was heated by microwave irradiation to 120° C. for 20 minutes. The batches were combined and concentrated and the residue was partitioned between saturated aqueous sodium carbonate and DCM. The aqueous phase was isolated and filtered to obtain the title compound as a grey precipitate (0.168 g) and the filtrate was acidified using dilute HCl (pH 2) then re-filtered to obtain a further amount of the title compound as an off-white solid (0.114 g). LCMS m/z 224.06 [M+H]+ R.T.=2.77 min (Analytical Method 8).

reactant | 5-bromo-thiophene-3-carboxylic acid | 4.4 mmol, 0.71 g | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | 2-fluoropyridine-4-boronic acid | 4.4 mmol, 0.619 g | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | caesium carbonate | 8.8 mmol, 2.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 10 mL | O | H2O
solvent | DME | 40 mL | COCCOC | C4H10O2
catalyst | palladium tetrakis(triphenylphosphine) | 0.44 mmol, 0.469 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 5-(2-Fluoro-pyridin-4-yl)-thiophene-3-carboxylic acid | FC1=NC=CC(=C1)C1=CC(=CS1)C(=O)O | C10H6FNO2S
